US09226922B2
To a solution of (S)-tert-butyl(2-hydroxy-2-methyl-1-phenylpropyl)carbamate (3.5 g, 13 mmol) in CH2Cl2 (20 mL) was added dioxane saturated with HCl gas (10 mL) and the contents were stirred at ambient temperature for 30 min. The volatiles were then removed under reduced pressure and the residue thus obtained was triturated with Et2O to afford (S)-1-amino-2-methyl-1-phenylpropan-2-ol. 1H NMR (300 MHz, DMSO-d6) δ 8.3 (bs, 2H), 7.47-7.37 (m, 5H), 5.34 (s, 1H), 4.1 (bs, 1H), 1.17 (s, 3H), 0.97 (s, 3H). Anal. Calcd. C10H15NO 165.2. Found 166.2 (M+H).

reactant | (S)-tert-butyl(2-hydroxy-2-methyl-1-phenylpropyl)carbamate | 13 mmol, 3.5 g | C(C)(C)(C)OC(N[C@H](C(C)(C)O)C1=CC=CC=C1)=O | C15H23NO3
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | HCl | 10 mL | Cl | ClH
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-amino-2-methyl-1-phenylpropan-2-ol | N[C@H](C(C)(O)C)C1=CC=CC=C1 | C10H15NO
